US07777047B2
tert-butyl [2-(benzylthio)-3-oxopropyl]carbamate
tert-Butyl [2-(benzylthio)-3,3-dimethoxypropyl]carbamate (9.4 g) was dissolved in tetrahydrofuran (50 mL) and water (50 mL), and acetic acid (100 mL) was added. The reaction mixture was stirred overnight at 50° C., and concentrated, and the residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated brine, dried over sodium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give the title compound (5.35 g, yield 66%) as a pale-yellow oil from a fraction eluted with ethyl acetate-hexane (1:19).

reactant | tert-Butyl [2-(benzylthio)-3,3-dimethoxypropyl]carbamate | 9.4 g | C(C1=CC=CC=C1)SC(CNC(OC(C)(C)C)=O)C(OC)OC | C17H27NO4S
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | tert-butyl [2-(benzylthio)-3-oxopropyl]carbamate | 5.35 g, yield 66% | C(C1=CC=CC=C1)SC(CNC(OC(C)(C)C)=O)C=O | C15H21NO3S
